US07465815B2
1-(2-(4-Isopropylbenzyl)-3,5-dimethylphenoxy)pentane-2-one
To a solution of 1-((2-(4-isopropylbenzyl)-3,5-dimethylphenoxy)acetyl)-2-methylaziridine obtained in Reference Example 166 (1.0 g, 2.85 mmol) in THF (20 mL) was added dropwise n-propylmagnesium bromide (a 2.0 M THF solution, 1.43 mL, 2.85 mmol) under argon atmosphere with ice-cooling, and the mixture was stirred for 30 minutes. The reaction solution was warmed to room temperature, water was added thereto, which was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, and then was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:4) to obtain 920 mg (yield 95%) of the title compound. Oily matter.

reactant | 1-((2-(4-isopropylbenzyl)-3,5-dimethylphenoxy)acetyl)-2-methylaziridine | C(C)(C)C1=CC=C(CC2=C(OCC(=O)N3C(C3)C)C=C(C=C2C)C)C=C1 | C23H29NO2
reactant | n-propylmagnesium bromide | C(CC)[Mg]Br
reactant | water | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 2.0 M | C1CCOC1 | C4H8O
product | 1-(2-(4-Isopropylbenzyl)-3,5-dimethylphenoxy)pentane-2-one | 920 mg, yield 95% | C(C)(C)C1=CC=C(CC2=C(OCC(CCC)=O)C=C(C=C2C)C)C=C1 | C23H30O2
